US04383106
120.5 lb. of dimethyl terephthalate (DMT), 71.6 lb. of butane diol (BD), 12.5 lb. of Polymeg 1000, poly(tetramethylene oxide)glycol having a molecular weight of about 1,000, and produced by the Quaker Oats Co., 1.5 lb. of Irganox 1010, tetrakis[methylene-3-(3's,5'-di-tert-butyl-4'-hydroxy-phenyl propionate]methane, manufactured by Ciga-Geiby, and 0.9 lb. of tetrabutyltitanate glycolate (60 PPM Ti) (7.17 percent TBT in EG) were charged in a reactor. The mixture was heated under N2 atmosphere to carry out the transesterification reaction with a batch temperature of 174° C.-215° C. After all the by-product methanol was distilled out, 1.8 lb. of dimer acid (Empol 1014) was added. The resultant mixture was further reacted at 215° C. for one hour. The pressure of the reactor was slowly reduced while temperature was raised to 250° C. The polymerization was carried out at 254° C. and 0.5 mm Hg pressure. Three hours later, the copolyester was discharged and the polymer had a melt strength index of 11.07.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | butane diol | C(CCC)(O)O | C4H10O2
product | Polymeg 1000 | CCCCO[C@@H](CC)CO | C8H18O2
